US06933311B2
8-bromoisoquinolin-5-amine
5-Aminoisoquinoline (5.50 g, 38.1 mmol) and aluminium trichloride (15.1 g, 113 mmol) were combined and heated at 80° C. in a 3-necked flask equipped with a dropping funnel, stirrer bar, needle and sintered glass tube. Bromine (3.04 g, 19.05 mmol) was dripped onto the sintered glass funnel and the vapour diffused onto the complex over a period of 2 hours. Heating was continued for 2 hours. The suspension was added portionwise to crushed ice and the solution basified with concentrated NaOH solution. The aqueous layer was extracted with ethyl acetate (4×100 mL) and the layers were separated. The organic layers were combined, dried (Na2SO4), filtered and the filtrate was concentrated to give a grey solid. The grey solid was subjected to column chromatography (hexanes:ethyl acetate, 3:1) to provide the title compound (2.96 g, 35%). MS (ESI+) m/z 225 (M+H)+; MS (ESI−) m/z 223 (M−H)−; 1H NMR (CDCl3, 300 MHz) δ 4.22 (br s, 2H), 6.83 (d, J 8.1, 1H), 7.25 (s, 1H), 7.54 (d, J 5.8, 11H), 7.61 (d, J 8.1, 11H), 8.59 (d, J 5.8, 11H), 9.56 (s, 1H).

reactant | 5-Aminoisoquinoline | 38.1 mmol, 5.50 g | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
reactant | aluminium trichloride | 113 mmol, 15.1 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | Bromine | 19.05 mmol, 3.04 g | BrBr | Br2
reactant | NaOH | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-bromoisoquinolin-5-amine | 2.96 g, 35% | BrC1=CC=C(C=2C=CN=CC12)N | C9H7BrN2
